US08541429B2
Step 1. 8-amino-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic Acid Potassium Salt [B00-X00-M03(C01)-D02]
A suspension of ethyl 8-amino-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (20.00 g, 66.368 mmol) in anhydrous ethanol (250 mL), 1.5M potassium hydroxide in ethanol (150 mL) was added under good stirring and the mixture was heated to reflux for 1.5 hours. After cooling in an ice bath, a solid was formed; that was filtered washing with ethanol, dried at 40° C. under vacuum to yield 17.34 g (yield 84%) of white solid compound.

reactant | ethyl 8-amino-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 66.368 mmol, 20.00 g | NC1=NC=2C3=C(C(CC2C=N1)(C)C)C(=NN3C)C(=O)OCC | C15H19N5O2
reactant | potassium hydroxide | 1.5M | [OH-].[K+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 8-amino-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic Acid Potassium Salt | 17.34 g, yield 84% | [K+].NC1=NC=2C3=C(C(CC2C=N1)(C)C)C(=NN3C)C(=O)[O-] | InChI=1S/C13H15N5O2.K/c1-13(2)4-6-5-15-12(14)16-8(6)10-7(13)9(11(19)20)17-18(10)3;/h5H,4H2,1-3H3,(H,19,20)(H2,14,15,16);/q;+1/p-1
